US04585796
5-(3-Aminopropyl)-2-thiophenecarboxamide was heated with (S)-phenylethylene oxide at b 95° in dimethyl sulphoxide. The mixture was diluted with water and methylene chloride and the aqueous phase was extracted twice with methylene chloride. The methylene chloride phases were washed with water, dried over sodium sulphate and evaporated in vacuo. Chromatography of the residue with methanol on silica gel gave 5-[3-[[(S)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide of melting point 94°-96°; [α]589 =+19° (c=0.1% in dioxan); ε256 =8490; ε275 =10780.

reactant | 5-(3-Aminopropyl)-2-thiophenecarboxamide | NCCCC1=CC=C(S1)C(=O)N | C8H12N2OS
reactant | (S)-phenylethylene oxide | C1(=CC=CC=C1)[C@H]1CO1 | C8H8O
solvent | dimethyl sulphoxide | CS(=O)C | C2H6OS
solvent | water | O | H2O
solvent | methylene chloride | C(Cl)Cl | CH2Cl2
product | 5-[3-[[(S)-β-hydroxyphenethyl]amino]propyl]-2-thiophenecarboxamide | O[C@H](CNCCCC1=CC=C(S1)C(=O)N)C1=CC=CC=C1 | C16H20N2O2S
